US04243672
A mixture of 5-ethyl-2-pyrrolylglyoxylic acid ethyl ester (1.95 g.) and sodium hydroxide (0.44 g.) in water (25 ml.) was heated on a steam bath for 1.5 hours. The mixture was cooled, filtered and the filtrate was acidified with 2 N hydrochloric acid. The solid was filtered off, washed with a little water, dried and crystallized from toluene to give 5-ethyl-2-pyrrolylglyoxylic acid (1.40 g.), M.P. 126°-128°). Found: C, 57.55; H, 5.53; N, 8.70. C8H9NO3 requires: C, 57.48; H, 5.43; N, 8.38%.

reactant | 5-ethyl-2-pyrrolylglyoxylic acid ethyl ester | 1.95 g | C(C)OC(C(=O)C=1NC(=CC1)CC)=O | C10H13NO3
reactant | sodium hydroxide | 0.44 g | [OH-].[Na+]
solvent | water | 25 ml | O | H2O
product | 5-ethyl-2-pyrrolylglyoxylic acid | 1.40 g | C(C)C1=CC=C(N1)C(C(=O)O)=O | C8H9NO3
